US05462941
0.15 g of 7-phenyl-furano[2,3-d]pyridazine-4-(5H)-one and 10 ml of phosphorus oxychloride were dissolved in 10 ml of dichloroethane, and the solution was stirred at 100° C. for 3 hours. The reaction solution was concentrated, and a 1-N aqueous KOH solution was added thereto under cooling with ice. The solution was extracted with chloroform and dried. The solvent was distilled off, thereby obtaining 0.10 g of 4-chloro-7-phenyl-furano[2,3-d]pyridazine.

reactant | 7-phenyl-furano[2,3-d]pyridazine-4-(5H)-one | 0.15 g | C1(=CC=CC=C1)C1=NNC(C2=C1OC=C2)=O | C12H8N2O2
reactant | phosphorus oxychloride | 10 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
product | 4-chloro-7-phenyl-furano[2,3-d]pyridazine | 0.10 g | ClC1=C2C(=C(N=N1)C1=CC=CC=C1)OC=C2 | C12H7ClN2O
